US09108944B2
A mixture of 5-(8-oxo-5-(4-(piperidin-4-yloxy)phenyl)-6-thioxo-5,7-diazaspiro[3.4]octan-7-yl)-3-(trifluoromethyl)picolinonitrile (70 mg, 0.14 mmol) and isocyanatotrimethylsilane (23 μL, 0.17 mmol) in DCM (3 mL) was stirred at room temperature overnight. Water was added and the mixture was stirred vigorously for 1 h. The aqueous layer was extracted with DCM (3×), the organics were combined, dried over sodium sulfate, and evaporated to dryness. Column chromatography on silica gel (0 to 20% MeOH/DCM) afforded 55 mg of 4-(4-(7-(6-cyano-5-(trifluoromethyl)pyridin-3-yl)-8-oxo-6-thioxo-5,7-diazaspiro[3.4]octan-5-yl)phenoxy)piperidine-1-carboxamide as a white solid. 1H NMR (300 MHz, DMSO-d6) δ 9.15 (s, 1H), 8.69 (s, 1H), 7.23 (d, 2H), 7.12 (d, 2H), 5.92 (s, 2H), 4.53 (m, 1H), 3.67-3.63 (m, 2H), 3.08-3.04 (m, 2H), 2.44 (m, 2H), 2.39 (m, 2H), 1.88 (m, 3H), 1.46 (m, 3H). LCMS [M+1]+ 545.2

reactant | 5-(8-oxo-5-(4-(piperidin-4-yloxy)phenyl)-6-thioxo-5,7-diazaspiro[3.4]octan-7-yl)-3-(trifluoromethyl)picolinonitrile | 0.14 mmol, 70 mg | O=C1N(C(N(C12CCC2)C2=CC=C(C=C2)OC2CCNCC2)=S)C=2C=C(C(=NC2)C#N)C(F)(F)F | C24H22F3N5O2S
reactant | isocyanatotrimethylsilane | 0.17 mmol, 23 μL | N(=C=O)[Si](C)(C)C | C4H9NOSi
reactant | Water | O | H2O
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-(7-(6-cyano-5-(trifluoromethyl)pyridin-3-yl)-8-oxo-6-thioxo-5,7-diazaspiro[3.4]octan-5-yl)phenoxy)piperidine-1-carboxamide | 55 mg | C(#N)C1=C(C=C(C=N1)N1C(N(C2(CCC2)C1=O)C1=CC=C(OC2CCN(CC2)C(=O)N)C=C1)=S)C(F)(F)F | C25H23F3N6O3S
